US05643878
c) 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-benzyloxy-phenylmethyl)-hexanoic acid
Analogously to Example 1i), 1.4 g (2.79 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(p-benzyloxyphenylmethyl)-dihydrofuran-2-(3H)-one in 45 ml of dimethoxyethane and 23 ml of water are hydrolysed with 11 ml of 1M lithium hydroxide solution. The reaction mixture, partially concentrated by evaporation, is poured onto a mixture of ice, 137 ml of sat. NH4Cl solution, 11 ml of 10% citric acid solution and 56 ml of methylene chloride, and methanol is added until the precipitated solid has dissolved. The aqueous phase is extracted with 2 portions of methylene chloride/methanol approximately 10:1, and the organic phases are washed with brine, dried with Na2SO4 and concentrated by evaporation: tRet (II)=24.0 min; FAB-MS (M+H)+ =520.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(p-benzyloxyphenylmethyl)-dihydrofuran-2-(3H)-one | 2.79 mmol, 1.4 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H35NO5
reactant | lithium hydroxide | 1M, 11 ml | [OH-].[Li+]
solvent | dimethoxyethane | 45 ml | C(OC)COC | C4H10O2
solvent | water | 23 ml | O | H2O
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-benzyloxy-phenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C31H37NO6
